US05928999
4-Chloro-3-(4-chloro-3-methoxymethylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.075)
1.6 g (9.0 mmol) of a 30% strength by weight solution of sodium methylate in methanol was added dropwise to a solution of 2.3 g (6.0 mmol) of 3-(3-bromomethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole in 60 ml of methanol. The reaction mixture was stirred at 40° C. for 3 hours and then concentrated. The residue was taken up in water and dichloromethane, after which concentrated hydrochloric acid was added until the acid reaction took place. Product remaining in the aqueous phase was extracted with dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and concentrated. Yield: 1.8 g.

reactant | sodium methylate | C[O-].[Na+]
reactant | 3-(3-bromomethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 6.0 mmol, 2.3 g | BrCC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C12H9BrCl2F2N2O
solvent | methanol | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 4-Chloro-3-(4-chloro-3-methoxymethylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)COC | C13H12Cl2F2N2O2
